US05302743
In 63.3 g of acetic acid, 22.9 g (0.1 mole) of N-trifluoroacetyl-L-aspartic acid was suspended and 10.2 g (0.1 mole) of acetic anhydride was added. The mixture was warmed to 55°-60° C. and stirred for 6 hours at the same temperature. After finishing the reaction, the resulting mixture was cooled to 15°-20° C. and then 9.2 g (0.11 mole) of sodium acetate and 20.5 g (0.095 mole) of L-phenylalanine methyl ester hydrochloride were successively added at the same temperature. The reaction was carried out for 2 hours with stirring at the same temperature. Precipitated crystals were filtered, washed and dried. Crystals of N-trifluoroacetyl-α-L-aspartyl-L-phenylalanine methyl ester were obtained in the yield of 29.3 g (79.0% yield on L-phenylalanine methyl ester hydrochloride). The crystals thus obtained were analyzed by high performance liquid chromatography to find α-isomer alone.

reactant | N-trifluoroacetyl-L-aspartic acid | 0.1 mole, 22.9 g | FC(C(=O)N[C@@H](CC(=O)O)C(=O)O)(F)F | C6H6F3NO5
reactant | acetic anhydride | 0.1 mole, 10.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.11 mole, 9.2 g | C(C)(=O)[O-].[Na+]
reactant | L-phenylalanine methyl ester hydrochloride | 0.095 mole, 20.5 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
solvent | acetic acid | 63.3 g | C(C)(=O)O | C2H4O2
product | N-trifluoroacetyl-α-L-aspartyl-L-phenylalanine methyl ester | 79.0% yield | COC([C@@H](NC([C@@H](NC(C(F)(F)F)=O)CC(O)=O)=O)CC1=CC=CC=C1)=O | C16H17F3N2O6
